US07423158B2
A solution of 1.5 gm (6.67 mmol) of 4-(3-bromophenyl)but-3-yn-1-ol in CH2Cl2 at 0° C. was treated with 2.0 mL (15.3 mmol) of DAST, stirred at 0° C. for 1 h, allowed to warm to room temperature for 1 h, poured into saturated sodium bicarbonate and extracted with EtOAc. The combined extracts were washed sequentially with water and brine, dried over Na2SO4 and concentrated under reduced pressure. Chromatography of the resultant concentrate on silica gel with a gradient of 0% to 24% EtOAc-hexanes gave 1-Bromo-3-(4-fluoro-but-1-ynyl)benzene as a volatile liquid, 0.96 gm (64% yield); 1H NMR (400 MHz, CDCl3) δ: 2.82 (dt, 2H, J=6.6, 19.8 Hz), 4.56 (dt, 2H, J=6.6,46.4 Hz), 7.14 (t, 2H, J=7.9 Hz), 7.31 (m, 1H), 7.41 (m, 1H), 7.55 (t, 1H, J=1.7 Hz).

reactant | 4-(3-bromophenyl)but-3-yn-1-ol | 6.67 mmol, 1.5 gm | BrC=1C=C(C=CC1)C#CCCO | C10H9BrO
reactant | DAST | 15.3 mmol, 2.0 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-Bromo-3-(4-fluoro-but-1-ynyl)benzene | 64% yield | BrC1=CC(=CC=C1)C#CCCF | C10H8BrF
